US07141669B2
Preparation of 4-[2-(2-Chlorophenyl)-5-methyl-7-oxo-6-(2,2,2-trifluoroethyl)-6,7-dihydro-2H-pyrazolo[4,3-d]pyrimidin-3-yl]-benzonitrile (5A-1)
A mixture of 3-(4-bromophenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one (4A-9, 109 mg, 0.23 mmol), Zn(CN)2 (29 mg, 0.25 mmol), Pd(PPh3)4 (6.8 mg, 5.9 μmol) in DMF (2.5 ml) was heated in a microwave apparatus (Emrys Optimizer, Personal Chemistry) at 200° C. for 10 minutes. The reaction mixture was quenched with saturated aqueous NaCl, filtered, and extracted with EtOAc (2×). The combined organic extracts were dried (Na2SO4) and concentrated under vacuum. The crude residue was purified on a Chromatotron using 1 mm plates and a solvent gradient of 33% EtOAc/hexanes to 50% EtOAc/hexanes to give the desired product, 4-[2-(2-chlorophenyl)-5-methyl-7-oxo-6-(2,2,2-trifluoroethyl)-6,7-dihydro-2H-pyrazolo[4,3-d]pyrimidin-3-yl]-benzonitrile (5A-1), as an amorphous solid (145 mg): MS (m/z) 444.4 (M+H)+; 1H NMR (400 MHz, CDCl3): δ 7.63–7.53 (m, 5H), 7.52–7.42 (m, 3H), 5.00–4.80 (br m, 2H), 2.66 (s, 3H).

reactant | 3-(4-bromophenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one | BrC1=CC=C(C=C1)C=1N(N=C2C1N=C(N(C2=O)CC(F)(F)F)C)C2=C(C=CC=C2)Cl | C20H13BrClF3N4O
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.25 mmol, 29 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 5.9 μmol, 6.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-(2-chlorophenyl)-5-methyl-7-oxo-6-(2,2,2-trifluoroethyl)-6,7-dihydro-2H-pyrazolo[4,3-d]pyrimidin-3-yl]-benzonitrile | ClC1=C(C=CC=C1)N1N=C2C(N=C(N(C2=O)CC(F)(F)F)C)=C1C1=CC=C(C#N)C=C1 | C21H13ClF3N5O
